US08207178B2
Step C: 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile
To a mixture of 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile (50 mmol) in DMF (300 ml) is added tert-butoxybis(dimethylamino) methane (60 mmol) over 15 minutes. The mixture is stirred at room temperature overnight. DMF is partially removed. The residue is washed with water and extracted with ethyl acetate (×3). The combined organic layers are washed with brine, dried (MgSO4) and concentrated to dryness to give the desired product which is used in next step without further purification.

reactant | 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile | 50 mmol | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])C)NC1=CC=C(C#N)C=C1)C | C20H16BrN5O2S
reactant | tert-butoxybis(dimethylamino) methane | 60 mmol | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 4-(4-(4-bromo-2,6-dimethylphenylthio)-6-((E)-2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile | BrC1=CC(=C(C(=C1)C)SC1=NC(=NC(=C1[N+](=O)[O-])\C=C\N(C)C)NC1=CC=C(C#N)C=C1)C | C23H21BrN6O2S
